US07727983B2
(3R,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester was hydrolyzed as described in general procedure B to furnish (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester as a mixture of diastereomers (1:1) at the morpholino center. This mixture of acids was converted to (S)-7-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester using the general procedure O. This intermediate was further converted to (S)-2-({(S)-6-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester as a mixture of diastereomeres following the general procedure C and E. This sulfonamide was deacylated using the general procedure P to furnish (S)-2-({(S)-6-(2-amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester as a mixture of diastereomeres. The diasteromers were separated by flash column chromatography (DCM: EtOAc, 9:1-7:3) The less polar diasteromer (LC-MS m/z 953, 16 mg) upon hydrolysis using the general procedure B furnished title compound (less polar diastereomer, 12 mg). LC-MS (m/z): 937.

reactant | (S)-7-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(N(C3=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C48H44Cl2N4O8
reactant | (S)-2-({(S)-6-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)=O | C49H42Cl2N6O9S2
product | (S)-2-({(S)-6-(2-amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C1=C(N=C(S1)N)C)=O | C47H40Cl2N6O8S2
